US09315458B2
A) methyl 2-hydroxy-4-methyl-5-((2′-methyl-[2,4′-bipyridine]-5-yl)methyl)benzoate
To a solution of methyl 5-((6-chloropyridin-3-yl)methyl)-2-hydroxy-4-methylbenzoate (0.35 g) in a mixed solvent of THF (8.40 mL)-water (2.80 mL) were added 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.53 g), potassium carbonate (0.66 g) and tetrakis(triphenylphosphine)palladium(0) (0.14 g), and the mixture was stirred overnight at 85° C. under argon atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.35 g).

reactant | methyl 5-((6-chloropyridin-3-yl)methyl)-2-hydroxy-4-methylbenzoate | 0.35 g | ClC1=CC=C(C=N1)CC=1C(=CC(=C(C(=O)OC)C1)O)C | C15H14ClNO3
reactant | THF | 8.40 mL | C1CCOC1 | C4H8O
reactant | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.53 g | CC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO2
reactant | potassium carbonate | 0.66 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 2.80 mL | O | H2O
product | methyl 2-hydroxy-4-methyl-5-((2′-methyl-[2,4′-bipyridine]-5-yl)methyl)benzoate | 0.35 g | OC1=C(C(=O)OC)C=C(C(=C1)C)CC=1C=CC(=NC1)C1=CC(=NC=C1)C | C21H20N2O3
